US07414134B2
Step (iii): Synthesis of (R)-(4-azido-3,4-dihydro-2H-chromen-7-yl)methanol (15)
(R)-Methyl 4-azido-3,4-dihydro-2H-chromene-7-carboxylate (21.50 mmol, 1.0 eq) in 50 mL THF was cooled to 0° C., and treated with DIBAL (63.0 mmol, 3.0 eq). After 2.5 h, the reaction mixture was quenched by adding 50% saturated K—Na tartrate (60 mL). After stirring 1 h at room temperature, the solution was extracted with DCM (4×50 mL). The organic layers were then washed with water (2×50 mL), dried over MgSO4 and concentrated. The residue was purified using SiO2 chromatography (10→80% EtOAc/Hexanes) to afford the title compound.

reactant | (R)-Methyl 4-azido-3,4-dihydro-2H-chromene-7-carboxylate | 21.50 mmol, 1.0 eq | N(=[N+]=[N-])[C@@H]1CCOC2=CC(=CC=C12)C(=O)OC | C11H11N3O3
reactant | DIBAL | 63.0 mmol, 3.0 eq | CC(C)C[AlH]CC(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-(4-azido-3,4-dihydro-2H-chromen-7-yl)methanol | N(=[N+]=[N-])[C@@H]1CCOC2=CC(=CC=C12)CO | C10H11N3O2
